US04276417
15 g. of 7-amino-5-diallylamino-2H-[1,2,4]oxadiazolo[2,3-a]-s-triazin-2-one are suspended in 300 ml. of methylene chloride, 30 ml. of triethylamine and 0.9 g. of 4-dimethylaminopyridine. 10.66 g. of 3,3-dimethylacrylyl chloride in 100 ml. of methylene chloride are added dropwise while stirring and cooling to about 5° C. The mixture is then stirred at 0° C. for 1 hour, treated with water and adjusted to pH 4 with 3-N hydrochloric acid. The two phases are separated and the aqueous phase is extracted with methylene chloride. The combined organic extracts are dried over magnesium sulfate and evaporated under reduced pressure. The residue is recrystallized from methylene chloride/diethyl ether, there being obtained pure N-{5-diallylamino-2-oxo-2H-[1,2,4]oxadiazolo[2,3-a]-s-triazin-7-yl}-3-methylcrotonamide having a melting point of 165°-166° C.

reactant | 7-amino-5-diallylamino-2H-[1,2,4]oxadiazolo[2,3-a]-s-triazin-2-one | NC1=NC(=NC=2N1OC(N2)=O)N(CC=C)CC=C | C10H12N6O2
reactant | 3,3-dimethylacrylyl chloride | CC(=CC(=O)Cl)C | C5H7ClO
reactant | hydrochloric acid | Cl | ClH
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-{5-diallylamino-2-oxo-2H-[1,2,4]oxadiazolo[2,3-a]-s-triazin-7-yl}-3-methylcrotonamide | C(C=C)N(C1=NC=2N(C(=N1)NC(C=C(C)C)=O)OC(N2)=O)CC=C | C15H18N6O3
